US08975417B2
Step 5.1: 3-chloro-1-methyl-5-nitropyridin-2(1H)-one
To a stirred suspension of 3-chloro-2-hydroxy-5-nitropyridine (10 g, 57.3 mmol) and K2CO3 (15.84 g, 115 mmol) in DMF (100 mL) under Ar was added MeI (5.37 mL, 86 mmol) at 0° C. The reaction mixture was stirred for 1 hr at rt, concentrated, diluted with water, and extracted with EtOAc. The combined organic layers were washed with water, dried over Na2SO4, and evaporated to afford the title product (10.38 g, 55.0 mmol, 96% yield) as a yellow solid. tR: 2.90 min (HPLC 1).

reactant | 3-chloro-2-hydroxy-5-nitropyridine | 57.3 mmol, 10 g | ClC=1C(=NC=C(C1)[N+](=O)[O-])O | C5H3ClN2O3
reactant | K2CO3 | 115 mmol, 15.84 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 86 mmol, 5.37 mL | CI | CH3I
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-chloro-1-methyl-5-nitropyridin-2(1H)-one | 55.0 mmol, 10.38 g, 96% yield | ClC=1C(N(C=C(C1)[N+](=O)[O-])C)=O | C6H5ClN2O3
